US09334290B2
A solution of 2-amino-N-(3-bromo-2-methylphenyl)-3,5-difluorobenzamide (760 mg, 2.23 mmol) in THF (10 mL) was treated portionwise with triphosgene (722 mg, 2.43 mmol). The solution was stirred at room temperature for 60 min, then was treated dropwise with saturated aqueous NaHCO3 and stirred until no more gas evolution was observed. The organic phase was separated, washed with water, dried and concentrated. The residue was purified by column chromatography on silica gel (40 g), eluting with EtOAc-hexanes (gradient from 0-100%), to give 3-(3-bromo-2-methylphenyl)-6,8-difluoroquinazoline-2,4(1H,3H)-dione (820 mg), used without further purification. Mass spectrum m/z 367, 369 (M+H)+, 389, 391 (M+Na)+.

reactant | 2-amino-N-(3-bromo-2-methylphenyl)-3,5-difluorobenzamide | 2.23 mmol, 760 mg | NC1=C(C(=O)NC2=C(C(=CC=C2)Br)C)C=C(C=C1F)F | C14H11BrF2N2O
reactant | triphosgene | 2.43 mmol, 722 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(3-bromo-2-methylphenyl)-6,8-difluoroquinazoline-2,4(1H,3H)-dione | 820 mg | BrC=1C(=C(C=CC1)N1C(NC2=C(C=C(C=C2C1=O)F)F)=O)C | C15H9BrF2N2O2
